US08957093B2
4′-((5-((2,4-difluorobenzyl)carbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-2-carboxylic acid
The title compound was prepared following the same general protocol as described in Step 8-9, Example 1, using the (2,4-difluorophenyl)methanamine and the 1-((2′-(tert-butoxycarbonyl)-[1,1′-biphenyl]-4-yl)methyl)-2,3-dimethyl-1H-indole-5-carboxylic acid. ESI-MS (m/z): 525 [M+H]+.

reactant | (2,4-difluorophenyl)methanamine | FC1=C(C=CC(=C1)F)CN | C7H7F2N
reactant | 1-((2′-(tert-butoxycarbonyl)-[1,1′-biphenyl]-4-yl)methyl)-2,3-dimethyl-1H-indole-5-carboxylic acid | C(C)(C)(C)OC(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=C(C2=CC(=CC=C12)C(=O)O)C)C | C29H29NO4
product | 4′-((5-((2,4-difluorobenzyl)carbamoyl)-2,3-dimethyl-1H-indol-1-yl)methyl)-[1,1′-biphenyl]-2-carboxylic acid | FC1=C(CNC(=O)C=2C=C3C(=C(N(C3=CC2)CC2=CC=C(C=C2)C=2C(=CC=CC2)C(=O)O)C)C)C=CC(=C1)F | C32H26F2N2O3
